US05006651
0.6 g of [[[N-[(S)-2-[1-(benzyloxy)formamido]-6-phthalimidohexanoyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester was dissolved in 2 ml of acetic acid and 2 ml of 45% hydrogen bromide in acetic acid and left to stand at room temperature overnight. The solvent was removed by evaporation and the residue was re-evaporated with toluene until a solid was obtained. This solid was dissolved in aqueous potassium hydrogen carbonate solution, 0.14 ml of benzyl chloroformate was added and the mixture was stirred for 4 hours. The solution was extracted twice with diethyl ether and acidified with hydrochloric acid. The solid was separated and dissolved by extraction with hot chloroform. The organic solution was dried over anhydrous magnesium sulfate and evaporated to yield 0.53 g of [[[N-[(S)-2-[1-(benzyloxy)formamido]-6-phthalimidohexanoyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid in the form of an amorphous cream powder.

reactant | [[[N-[(S)-2-[1-(benzyloxy)formamido]-6-phthalimidohexanoyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.6 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CNC([C@@H](NC([C@H](CCCCN1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)OCC2=CC=CC=C2)=O)CC(C)C)=O | C45H67N6O10P
reactant | hydrogen bromide | 2 ml | Br | BrH
reactant | benzyl chloroformate | 0.14 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
product | [[[N-[(S)-2-[1-(benzyloxy)formamido]-6-phthalimidohexanoyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid | 0.53 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCP(O)(=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C43H63N6O10P
